US04421690
When a mixture of [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol in pyridine is reacted with acetic anhydride and a catalytic amount of 4-dimethylaminopyridine, [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol 1,3,25-triacetate can be obtained.

reactant | [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol | FC(C(C)(C)O)(CC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O)F | C27H44F2O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | [1α,3β]-24,24-difluorocholest-5-en-1,3,25-triol 1,3,25-triacetate | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)OC(C)=O)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C33H50F2O6
